US07749680B2
To a 250 ml round bottomed flask was added methacrylic acid (7 g), acrolein (33 g), azobisisobutyronitrile (AIBN) (0.8 g), and propylene glycol methyl ether acetate (90 g), and the mixture was reacted for 8 hours under an N2 atmosphere. When the reaction was complete, the product was precipitated from 1,000 ml diethyl ether, and then dried in vacuum to give poly(methacrylic acid/acrolein) (25 g). To another 250 ml round flask was added the obtained poly(methacrylic acid/acrolein) (25 g), p-toluene sulfonic acid (0.1 g), and methanol (70 g), and the mixture was reacted for 24 hours at 70 oC. When the reaction was complete, the product was precipitated from n-hexane to give the titled polymer (yield: 70%). FIG. 4 shows an NMR spectrum of the titled compound.

reactant | methacrylic acid | 7 g | C(C(=C)C)(=O)O | C4H6O2
reactant | acrolein | 33 g | C(=O)C=C | C3H4O
reactant | azobisisobutyronitrile | 0.8 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | propylene glycol methyl ether acetate | 90 g | C(C)(=O)OC(COC)C | C6H12O3
product | methacrylic acid acrolein | C(C(=C)C)(=O)O.C(=O)C=C | InChI=1S/C4H6O2.C3H4O/c1-3(2)4(5)6;1-2-3-4/h1H2,2H3,(H,5,6);2-3H,1H2
